US08080568B1
A stirred solution of 1-(bromomethyl)-2-fluoro-3-nitrobenzene (2.50 g, 10.6 mmol) and morpholine (2.78 g, 32.0 mmol) in toluene (24 mL) was heated at reflux temperature for 2.5 h. The reaction mixture was allowed to cool to room temperature and then washed with 1 N NaOH (2×20 mL). The aqueous layer was extracted with EtOAc (2×25 mL), and the combined toluene solution and EtOAc extracts were dried over anhydrous Na2SO4, filtered, and evaporated to dryness under reduced pressure. The residue was purified by MPLC on silica gel using a mixture of EtOAc and hexane as eluent to give 4-(2-fluoro-3-nitrobenzyl)morpholine (1.95 g, 89%) as a light yellow solid. 1H NMR (400 MHz, CD3OD): δ 8.02-7.97 (m, 1H), 7.83-7.78 (m, 1H), 7.36 (td, 1H, J=8.0, 1.0 Hz), 3.70-3.67 (m, 6H), 2.51 (br t, 4H, J=4.6 Hz).

reactant | 1-(bromomethyl)-2-fluoro-3-nitrobenzene | 10.6 mmol, 2.50 g | BrCC1=C(C(=CC=C1)[N+](=O)[O-])F | C7H5BrFNO2
reactant | morpholine | 32.0 mmol, 2.78 g | N1CCOCC1 | C4H9NO
solvent | toluene | 24 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(2-fluoro-3-nitrobenzyl)morpholine | 1.95 g, 89% | FC1=C(CN2CCOCC2)C=CC=C1[N+](=O)[O-] | C11H13FN2O3
